US07951954B2
a) (3-Cyclohexylcarbamoylmethyl-phenyl)-acetic acid
Cyclohexylamine (510 mg), (3-carboxymethyl-phenyl)-acetic acid (1.0 g), 1-hydroxybenzotriazole (700 mg) and Hunigs base (0.9 mL) were added to a round bottomed flask and dissolved in dichloromethane (40 mL) at room temperature. The mixture was stirred at room temperature for 5 minutes then 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (990 mg) was added. The reaction was stirred at room temperature for 3 hours. The mixture was diluted with dichloromethane (40 mL) and washed with 2M hydrochloric acid (2×40 mL). The organic layer was isolated and extracted with 2M sodium hydroxide (2×40 mL). The basic extract was isolated, acidified with 2M hydrochloric acid and extracted with dichloromethane (2×40 mL). The dichloromethane extracts were combined, dried over anhydrous sodium sulphate, filtered and concentrated to give 626 mg of the sub-titled product as a white solid.

reactant | Cyclohexylamine | 510 mg | C1(CCCCC1)N | C6H13N
reactant | (3-carboxymethyl-phenyl)-acetic acid | 1.0 g | C(=O)(O)CC=1C=C(C=CC1)CC(=O)O | C10H10O4
reactant | 1-hydroxybenzotriazole | 700 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Hunigs base | 0.9 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 990 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (3-Cyclohexylcarbamoylmethyl-phenyl)-acetic acid | 626 mg | C1(CCCCC1)NC(=O)CC=1C=C(C=CC1)CC(=O)O | C16H21NO3
